US06995151B2
N,N′-Bis-1,3-benzodioxol-5-ylmethyl-isophthalamide
In methylene chloride (200 mL) was dissolved the piperonyl amine (12.8 g, 85 mmol) and triethyl amine (9.09 g, 90 mmol). To this was added in parts 1,3-benzenedicarbonyl dichloride (8.12 g, 40 mmol). The mixture was stirred at room temperature for 24 hours and then diluted with 1N hydrochloric acid (300 mL). The mixture was filtered to collect a solid. The solid was washed with 1N sodium hydroxide (50 mL) and then water (6×100 mL). The solid was dried at 65° C. for 3 hours at reduced pressure to give 15.08 g (87%) of a white solid. MS: M+1=433.3.

reactant | piperonyl amine | 85 mmol, 12.8 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | triethyl amine | 90 mmol, 9.09 g | C(C)N(CC)CC | C6H15N
reactant | 1,3-benzenedicarbonyl dichloride | 40 mmol, 8.12 g | C1(=CC(=CC=C1)C(=O)Cl)C(=O)Cl | C8H4Cl2O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 1N, 300 mL | Cl | ClH
product | N,N′-Bis-1,3-benzodioxol-5-ylmethyl-isophthalamide | 15.08 g, 87% | O1COC2=C1C=CC(=C2)CNC(C2=CC(C(=O)NCC1=CC3=C(OCO3)C=C1)=CC=C2)=O | C24H20N2O6
